US07317021B2
F2. 2,3-Diamino-5-(4-fluoro-phenyl)-pyridine
A solution of 2.59 g of 2-amino-5-(4-fluorophenyl)-3-nitro-pyridine (compound G1) in 36 ml ethanol is treated with 12.9 g of SnCl2.2H2O at 90° C. for 24 h under a nitrogen atmosphere. Thereafter, the solution is concentrated to dryness. The residue is dissolved in 600 ml H2O and adjusted to pH 8 using a 1.0 M solution of aqueous sodium hydroxide. Subsequently, the aqueous layer is extracted six times each with 50 ml of ethyl acetate. The combined organic phases are extracted once with 100 ml of brine, dried using magnesium sulfate, filtered with suction, and evaporated to dryness to yield 2.12 g of the pure title compound of m.p. 261° C. MS: 204.3 (MH+). TLC: Rf=0.50 (dichloromethane/methanol 5:1).

reactant | 2-amino-5-(4-fluorophenyl)-3-nitro-pyridine | 2.59 g | NC1=NC=C(C=C1[N+](=O)[O-])C1=CC=C(C=C1)F | C11H8FN3O2
reactant | SnCl2.2H2O | 12.9 g | O.O.Cl[Sn]Cl
solvent | ethanol | 36 ml | C(C)O | C2H6O
product | 2,3-Diamino-5-(4-fluoro-phenyl)-pyridine | 2.12 g | NC1=NC=C(C=C1N)C1=CC=C(C=C1)F | C11H10FN3
